US06359145B1
Twenty percent palladium hydroxide on carbon (30 mg) was added to a stirred solution of 1-[(2S)-2-benzyloxy-5-phenyl-3-pentyl]imidazole-4-carboxamide (obtained in Example 3(1))(107 mg) in cyclohexene (5 ml) and ethanol (12.5 ml). The resulting mixture was stirred at reflux temperature for 12 hours. After cooling to room temperature, the mixture was filtered through Celite, and the insoluble material on the filter was washed with ethanol. The filtrate and washing were combined and then concentrated in vacuo. The resulting residue was purified by silica gel (3 g) chromatography eluted with chloroform/methanol (50:1) to give 1-[(2S)-2-hydroxy-5-phenyl-3-pentyl]imidazole-4-carboxamide (69.1 mg).

reactant | 1-[(2S)-2-benzyloxy-5-phenyl-3-pentyl]imidazole-4-carboxamide | 107 mg | C(C1=CC=CC=C1)O[C@@H](C)C(CCC1=CC=CC=C1)N1C=NC(=C1)C(=O)N | C22H25N3O2
solvent | cyclohexene | 5 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 12.5 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 30 mg | [OH-].[OH-].[Pd+2]
product | 1-[(2S)-2-hydroxy-5-phenyl-3-pentyl]imidazole-4-carboxamide | 69.1 mg | O[C@@H](C)C(CCC1=CC=CC=C1)N1C=NC(=C1)C(=O)N | C15H19N3O2
